US06335360B1
Ethyl 2-azido-3-(2-methylphenyl)butanoate
Sodium pieces (5.15 g, 240 mmol) were added in portions to ethanol (157 ml). The resulting solution was cooled in an ice/acetone bath to −15° C. and then over one hour a mixture of 2-methylbenzaldehyde (7.209 g, 60 mmol) and ethyl azidoacetate (30.980 g, 240 mmol) was added at a rate that maintained the temperature below 10° C. After 3 hours, the solution was stored at 5° C. for two days to give pure product as yellow crystals.

reactant | Sodium | [Na] | Na
reactant | 2-methylbenzaldehyde | 60 mmol, 7.209 g | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | ethyl azidoacetate | 240 mmol, 30.980 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | ethanol | 157 ml | C(C)O | C2H6O
product | Ethyl 2-azido-3-(2-methylphenyl)butanoate | N(=[N+]=[N-])C(C(=O)OCC)C(C)C1=C(C=CC=C1)C | C13H17N3O2
